US07897597B2
The general method described for Examples 22-32 was followed using the following modifications. 4-Amino-2-ethoxymethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol (310 mg, 0.97 mmol) was dissolved in DMF (15 mL) with heating but precipitated from the solution as it cooled to room temperature. A solution of 3-methylbenzyl bromide (197 mg, 1.07 mmol) in DMF (0.5 mL) was added followed by solid cesium carbonate (643 mg, 1.97 mmol). N-Methylpyrrolidone (1 mL) was added to the reaction, and the reaction was stirred overnight. The crude product was purified by column chromatography on silica gel (eluting with chloroform:methanol), triturated with acetonitrile, and isolated by filtration to provide 175 mg of 2-ethoxymethyl-7-(3-methylbenzyloxy)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, mp 207.0-208.0° C.

reactant | 4-Amino-2-ethoxymethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | 0.97 mmol, 310 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)C)COCC)O | C17H22N4O2
reactant | 3-methylbenzyl bromide | 1.07 mmol, 197 mg | CC=1C=C(CBr)C=CC1 | C8H9Br
reactant | cesium carbonate | 1.97 mmol, 643 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-Methylpyrrolidone | 1 mL | CN1C(CCC1)=O | C5H9NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-ethoxymethyl-7-(3-methylbenzyloxy)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 175 mg | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)OCC2=CC(=CC=C2)C)N)N1)CC(C)C | C25H30N4O2
